US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxamide
Trimethylaluminium (2M in toluene, 1.23 mL, 2.46 mmol) was added dropwise to a stirred suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (243 mg, 0.98 mmol) and methyl 2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxylate (246 mg, 0.98 mmol) in toluene (5.00 mL) at 25° C. The resulting solution was stirred at 60° C. for 24 h. The reaction mixture was added to methanol (100 mL), then treated with HCl (2N aqueous solution, until pH was 7 or lower). The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford impure product. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 0.1% TFA) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (204 mg, 45%) as a white solid.

reactant | Trimethylaluminium | 2.46 mmol, 2M, 1.23 mL | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 0.98 mmol, 243 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxylate | 0.98 mmol, 246 mg | CN1C(CN(CC1)C1=NC=C(C=N1)C(=O)OC)=O | C11H14N4O3
reactant | HCl | 2N, pH was 7 | Cl | ClH
solvent | toluene | 5.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-methyl-3-oxopiperazin-1-yl)pyrimidine-5-carboxamide | 204 mg, 45% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1C=NC(=NC1)N1CC(N(CC1)C)=O | C23H27N7O4
